US07705004B2
A mixture of 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (61 mg, 0.14 mmol), 1-(4-aminophenyl)piperidin-4-ol (61 mg, 0.32 mmol) and trimethylsilyl chloride (TMSCl) (0.060 mL, 0.48 mmol) in n-butyl alcohol (2 mL) was heated at 116° C. for 96 h. The mixture was then purified by HPLC to give 1-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperidin-4-ol (11 mg).

reactant | 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.14 mmol, 61 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C20H15ClN6O2S
reactant | 1-(4-aminophenyl)piperidin-4-ol | 0.32 mmol, 61 mg | NC1=CC=C(C=C1)N1CCC(CC1)O | C11H16N2O
reactant | trimethylsilyl chloride | 0.48 mmol, 0.060 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | n-butyl alcohol | 2 mL | C(CCC)O | C4H10O
product | 1-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperidin-4-ol | 11 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCC(CC1)O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C31H30N8O3S
